US05593995
Racemic 3-hydroxybutyl tosylate was prepared in a manner described by Ferreira et al., Tetrahedron, 46 pp. 6311-6318, (1990). To a solution of the racemic tosylate (9.2 g, 37.7 mmol) in acetonitrile (190 ml) was added 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (8.3 g, 37.7 mmol) followed by milled potassium carbonate (7.8 g, 56.6 mmol) at room temperature under nitrogen. The reaction mixture was warmed to reflux for 4.5 hours and allowed to cool to room temperature. The solids were removed via filtration through a pad of Celite and were washed with EtOAc. The combined filtrates were concentrated to give the crude product. Purification via preparative HPLC. (silica gel, 10% MeOH/EtOAc) afforded 6.3 g (57%), m.p.=100°-102° C.

reactant | racemic tosylate | 37.7 mmol, 9.2 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 37.7 mmol, 8.3 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | potassium carbonate | 56.6 mmol, 7.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
product | Racemic 3-hydroxybutyl tosylate | S(=O)(=O)(OCCC(C)O)C1=CC=C(C)C=C1 | C11H16O4S
